### PR TITLE
L6 ANF from L6 CPS

### PR DESCRIPTION
**Pull request by zoep**
This is a "dummy" pull request so we can comment and discuss about the L6 changes and what's needed to patch the proofs.

The state of the L6 pipeline is:

- Uncurring : needs patching
- Beta contraction (i.e. inlining) : unproved
- Shrink reduction : needs patching
- Lambda lifting: needs patching
- Closure conversion + hoisting : needs patching 
- Dead param elim: unproved

End-to-end proof (including sep. compilation): unproved

### CODE REVIEW

File: theories/L6_PCPS/L4_to_L6_anf.v [hunk 1]
```diff
@@ -0,0 +1,470 @@
+(* Conversion from L4.expression to L6.cps *)
+
```
Comment (zoep) [inline theories/L6_PCPS/L4_to_L6_anf.v]: The ANF transformation, going from L4 to L6 CPS

File: theories/L6_PCPS/alpha_fresh.v [hunk 2]
```diff
@@ -6,7 +6,7 @@ Import ListNotations.
 Require Import ExtLib.Structures.Monad.
 Require Import ExtLib.Structures.MonadState.
```
Comment (zoep) [inline theories/L6_PCPS/alpha_fresh.v]: This is a renaming transformation that generates a term with fresh bindings. It's not proved correct w.r.t to the log. relation, but we have an alpha renaming relation (in alpha_conv.v) that is proved correct w.r.t. the relation, so all that we need to do is to prove this transformation correct w.r.t to the alpha_conv relation.

File: theories/L6_PCPS/beta_contraction.v [hunk 3]
```diff
@@ -4,38 +4,38 @@ Require Import L6.cps.
 Require Import Coq.ZArith.ZArith Coq.Lists.List Coq.Strings.String.
```
Comment (zoep) [inline theories/L6_PCPS/beta_contraction.v]: Inlining transformation. Should be easy to prove correct because all that it does is beta reductions following a heuristic that should not matter for the proof. Relies on the proof of the alpha_fresh transformation.

File: theories/L6_PCPS/cps.v [hunk 4]
```diff
@@ -76,6 +76,7 @@ Inductive exp : Type :=
 | Econstr: var -> ctor_tag -> list var -> exp -> exp
 | Ecase: var -> list (ctor_tag * exp) -> exp
 | Eproj: var -> ctor_tag -> N -> var -> exp -> exp
+| Eletapp: var -> var -> fun_tag -> list var -> exp -> exp
```
Comment (zoep) [inline theories/L6_PCPS/cps.v]: This is the new constructor of the L6 language, that binds the result of an application in the expression that follows.

File: theories/L6_PCPS/ctx.v [hunk 5]
```diff
@@ -4,15 +4,18 @@
...
 Import ListNotations.
 
 (** Expression evaluation contexts *)
 Inductive exp_ctx : Type :=
 | Hole_c : exp_ctx
 | Econstr_c : var -> ctor_tag -> list var -> exp_ctx -> exp_ctx
 | Eproj_c  : var -> ctor_tag -> N -> var -> exp_ctx -> exp_ctx
-| Eprim_c : var -> prim -> list var -> exp_ctx -> exp_ctx   
+| Eprim_c : var -> prim -> list var -> exp_ctx -> exp_ctx
+| Eletapp_c : var -> var -> fun_tag -> list var -> exp_ctx -> exp_ctx
```
Comment (zoep) [inline theories/L6_PCPS/ctx.v]: letapp constructor for exp_ctx.

File: theories/L6_PCPS/dead_param_elim.v [hunk 6]
```diff
@@ -2,9 +2,7 @@
  * Author: Katja Vassilev, 2018
```
Comment (zoep) [inline theories/L6_PCPS/dead_param_elim.v]: Dead parameter elimination. I believe there's a bug lingering here and the L6 -> Clight fails to generate code when dead param is used. I'll be investigating more.

File: theories/L6_PCPS/eval.v [hunk 7]
```diff
@@ -58,6 +58,19 @@ Section EVAL.
...
+        (t : ctor_tag) (ys : list var) (v v' : val) (c c' : nat),
+        (* evaluate application *)
+        M.get f rho = Some (Vfun rho' fl f') ->
+        get_list ys rho = Some vs ->
+        find_def f' fl = Some (t,xs,e_body) ->
+        set_lists xs vs (def_funs fl fl rho' rho') = Some rho'' ->
+        bstep_e rho'' e_body v c -> (* body evaluates to v *)
+        (* evaluate let continuation *)
+        bstep_e (M.set x v rho) e v' c' ->
+        bstep_e rho (Eletapp x f t ys e) v' (c + c' + 1)  (* force equality on [t] *)
```
Comment (zoep) [inline theories/L6_PCPS/eval.v]: This is the new case for the evaluation of Eletapp.

File: theories/L6_PCPS/lambda_lifting.v [hunk 8]
```diff
@@ -190,6 +190,20 @@ Section LambdaLifting.
...
+                        | Fun f' ft' fvs _ =>
+                          let is_rec := PS.mem f' active_fun in
+                          if lift is_rec then union_list fvset fvs  (* f' should not count as a fv since it's a known closed function *)
+                          else if mem f scope then fvset else PS.add f fvset
+                        end
+                      | None => if mem f scope then fvset else PS.add f fvset
+                      end
+        in
+        let fvset'' := add_list scope fvset' ys in 
+        exp_true_fv_aux e (add x scope) fvset''
```
Comment (zoep) [inline theories/L6_PCPS/lambda_lifting.v]: Example of how lambda lifting changed after the addition of the Eletapp node.

File: theories/L6_PCPS/logical_relations.v [hunk 9]
```diff
@@ -79,16 +80,20 @@ Section Log_rel.
...
+             (p1 p2 : exp * env) : Prop :=
     let '(e1, rho1) := p1 in
     let '(e2, rho2) := p2 in
     forall v1 c1,
-      c1 <= k -> bstep_e pr cenv rho1 e1 v1 c1 ->
-      exists v2 c2, bstep_e pr cenv rho2 e2 v2 c2 /\
-               preord_val (k - c1) v1 v2.
+      c1 <= k -> bstep_cost pr cenv rho1 e1 v1 c1 ->
+      exists v2 c2, bstep_cost pr cenv rho2 e2 v2 c2 /\
+               P1 c1 c2 /\
```
Comment (zoep) [inline theories/L6_PCPS/logical_relations.v]: c1 which is the time consumption of e1, and c2 which is the time consumption of e2 are related by the (local) precondition P.

File: theories/L6_PCPS/logical_relations.v [hunk 10]
```diff
@@ -36,14 +36,15 @@ Section Log_rel.
    *                (e1, ρ1[x1 -> v1, f1 -> (\f1 x1. e1, ρ1)]) ~_j
```
Comment (zoep) [inline theories/L6_PCPS/logical_relations.v]: The logical relation framework. Contains two logical relations:
`preord_exp` (which is a preorder used to prove correct all L6 transformations except closure conversion) and `cc_approx_exp` which is the one use for the the correctness of closure conversion (because clos. conv. changes the way applications are performed and therefore we can't prove it with `preord_exp`).

There are two main changes in `preord_exp`: 

1. (Easy) An extra compat lemma for the Eletapp case (see comment below)
2. (Harder) Added a post-condition that relates the time resource consumption of the source and target programs. 
The idea is that along with functional correctness of the transformation, we're also proving a lower and an upper bound on the running time of the target (for L6 transformations I think we can always have an upper bound of the form c_trg < K * c_src where K is constant. 
Technically, we also need a lower bound to be able to have correctness of separate compilation. This might be trickier to find for transformations that make the 

As a result the expression relation is annotated with two relations: `(P : relation nat)` that holds on the result of the current execution and (PG : nat -> relation (exp * env *  nat)) that holds "globally" (e.g. for the functions in the environment) and is parameterized by the related terms so that we can accommodate size specific bounds (e.g. c_src <= mac(size(exp), size_env(i,env)) * c_trg.

File: theories/L6_PCPS/logical_relations.v [hunk 11]
```diff
@@ -392,259 +397,466 @@ Section Log_rel.
...
+        intros. eapply (preord_val_monotonic PG k); [ now eauto | omega ].
+      - repeat eexists. econstructor 4; eauto.
+        erewrite get_list_length_eq; [| eassumption ]. 
+        erewrite get_list_length_eq; [| eassumption ]. 
+        erewrite Forall2_length; [| eassumption ].
+        rewrite <- !plus_assoc. eapply HPostApp. eassumption.
+        eapply preord_val_monotonic. eassumption. omega.
+    Qed.
+
+    Lemma preord_exp_letapp_compat k rho1 rho2 x x' f1 f2 ft ys1 ys2 e1 e2 :
```
Comment (zoep) [inline theories/L6_PCPS/logical_relations.v]: Compatibility lemma for Eletapp.

File: theories/L6_PCPS/logical_relations.v [hunk 12]
```diff
@@ -392,259 +397,466 @@ Section Log_rel.
...
+
+  Definition post_letapp_compat (PG : PostG) (P1 P2 : Post) :=
+    (* Maybe for certain postconditions we'll need to strengthen the assumptions here *)
+    forall k e1 e2 rho1 rho2 c1 c2 c1' c2' a,
+      PG (k - 1) (e1, rho1, c1) (e2, rho2, c1') ->
+      P1 c2 c2' ->
+      P2 (c1 + c2 + a) (c1' + c2' + a).
+
+  Section Compat.
+    Context (P1 P2 : relation nat) (* Local *)
```
Comment (zoep) [inline theories/L6_PCPS/logical_relations.v]: As a result of adding the postconditions, we need to assume some compatibility properties for the postcondition parameter in order to prove the compatibility lemmas.

File: theories/L6_PCPS/state.v [hunk 13]
```diff
@@ -27,10 +27,54 @@ Section CompM.
                                            cenv : ctor_env;
                                            fenv : fun_env; (* Maps fun_tag's to (number of args,  list (arg no)) *)
                                            nenv : name_env;
-                                           log : list string }.
-
-  Definition compM := state (comp_data * S).
```
Comment (zoep) [inline theories/L6_PCPS/state.v]: The new unified state for L6 transformations. Should not affect the Hoare-logic proof too much be we need to prove hoare-triple lemmas for the primitives defined in this file.
